datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]([C:16]([H:23])([H:24])[H:25])([O:17][O:18])[H:22])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[H:4][O:18][O:17][C:15]([C:14]([H:19])([H:20])[H:21])([C:16]([H:23])([H:24])[H:25])[H:22],85.60464
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[S:9]([S:10][H:12])[H:11]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:11])[H:6])([H:4])[H:5].[S:9][S:10][H:12],7.5312
[O:0]=[C:1]([O:2][H:4])[H:3].[O:5]>>[H:3][O:5].[O:0]=[C:1][O:2][H:4],17.639744
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:18])([H:19])[H:20])=[C:10]([C:11](=[C:12]([H:22])[H:23])[H:21])[C:13](=[C:14]([H:25])[H:26])[H:24])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:10]([C:8]([C:7](=[C:6]([H:15])[H:16])[H:17])[C:9]([H:18])([H:19])[H:20])([C:11](=[C:12]([H:22])[H:23])[H:21])[C:13](=[C:14]([H:25])[H:26])[H:24])[H:3],35.0201
[C:0](=[C:1]([C:2]#[C:3][c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:10])[H:11].[H:18]>>[C:0](=[C:1]([C:2](=[C:3][c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:18])[H:12])([H:10])[H:11],16.091664
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([C:9](=[C:10]([H:22])[H:23])[H:21])[H:20])([H:15])[H:16])[H:14])[H:13])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])=[C:4]([H:14])[C:5]([H:15])([H:16])[C:6]([C:7]([H:17])([H:18])[H:19])[C:8]1([C:9](=[C:10]([H:22])[H:23])[H:21])[H:20])[H:11],117.487
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](#[C:14][C:15]([C:16]([H:19])([H:20])[H:21])[S:17][H:22])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:15]([C:14]#[C:13][H:18])([C:16]([H:19])([H:20])[H:21])[S:17][H:22],30.1248
[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[S:6]=[C:7]([S:8][H:10])[H:9]>>[C:0]([C:1](=[S:2])[H:10])([H:3])([H:4])[H:5].[S:6]=[C:7]([S:8])[H:9],-10.8784
[C:0](=[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])[C:4](=[C:5]([C:6]([C:7]([C:8]([H:23])([H:24])[H:25])=[C:9]([C:10]([H:26])([H:27])[H:28])[C:11](=[C:12]([H:30])[H:31])[H:29])([H:21])[H:22])[H:20])[H:19])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]1([C:3]([H:16])([H:17])[H:18])[C:4]([H:19])=[C:5]([H:20])[C:6]([H:21])([H:22])[C:7]([C:8]([H:23])([H:24])[H:25])[C:9]1([C:10]([H:26])([H:27])[H:28])[C:11](=[C:12]([H:30])[H:31])[H:29])[H:15])([H:13])[H:14],144.097
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][H:18]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:17][H:18],-4.1823264
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[C:15]([O:16][O:17])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:7])([H:5])[H:6].[H:8][O:17][O:16][C:15]([H:18])([H:19])[H:20],44.05752
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[S:13]([C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])[H:22])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:14]([S:13][H:21])([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])[H:22],25.5224
[C:0](=[C:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])([H:6])[H:7].[C:14](=[C:15]([C:16]([C:17](=[C:18]([H:24])[H:25])[H:23])[H:22])[H:21])([H:19])[H:20]>>[C:0](=[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:16]([C:15](=[C:14]([H:19])[H:20])[H:21])([C:17](=[C:18]([H:24])[H:25])[H:23])[H:22])([H:6])[H:7],81.7135
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[S:10]([C:11]([c:12]1[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]1[H:25])([H:19])[H:20])[H:18]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[H:19])([H:3])([H:4])[H:5].[S:10]([C:11]([c:12]1[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]1[H:25])[H:20])[H:18],10.0416
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([H:11])[H:12])[H:7]>>[C:0](#[C:1][C:2]1([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[C:5]([H:13])[C:6]1([H:14])[H:15])[H:7],154.39
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[C:16]([C:15]([H:23])[H:24])([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])[H:8])([H:6])[H:7],80.291
